US04031093
Ethyl 1,6-dihydro-6-oxo-2-(2-isobutoxyphenyl)pyrimidine-5-carboxylate (benzamidine free base)
To a stirred sodium (3.15 g., 0.137 g-atom) in ethanol (250 ml.) was added 2-isobutoxybenzamidine (26.3 g., 0.137 mole) followed by diethyl ethoxymethylenemalonate (29.6 g., 0.137 mole). The mixture was heated under reflux for 3 hours. The cooled mixture was added to icewater (300 ml.) which was then acidified to pH 5 with glacial acetic acid. The crystalline product (36.4 g., 85%) m.p. 89°-91°, which formed on cooling was collected and a portion recrystallized from 50% aqueous ethanol to give the title compound, m.p. 92°-93°.

reactant | sodium | 3.15 g | [Na] | Na
reactant | 2-isobutoxybenzamidine | 0.137 mole, 26.3 g | C(C(C)C)OC1=C(C(=N)N)C=CC=C1 | C11H16N2O
reactant | diethyl ethoxymethylenemalonate | 0.137 mole, 29.6 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | Ethyl 1,6-dihydro-6-oxo-2-(2-isobutoxyphenyl)pyrimidine-5-carboxylate | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC(C)C)C(=O)OCC | C17H20N2O4
